US04798843
(iv) 5-(4-Methoxybenzyl-2-mercaptoimidazole
A solution of 3-(4-methoxyphenyl)-2-oxo-1-aminopropane, hydrochloride (3.0 g, 14 mmole) and potassium thiocyanate (1.36 g, 14 mmole) in acetic acid (60 ml) was heated under reflux for 15 minutes. The reaction was cooled, diluted with water and the product was filtered and recrystallized from ethyl alcohol and dried to give the product was a solid (1.6 g, 52%).

reactant | 3-(4-methoxyphenyl)-2-oxo-1-aminopropane, hydrochloride | 14 mmole, 3.0 g | Cl.COC1=CC=C(C=C1)CC(CN)=O
reactant | potassium thiocyanate | 14 mmole, 1.36 g | [S-]C#N.[K+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-Methoxybenzyl-2-mercaptoimidazole | COC1=CC=C(CC=2N=C(NC2)S)C=C1 | C11H12N2OS
